US04906643
A mixture of 2.16 parts of 1H-1,2,4-triazol-5-thiol, 1.03 parts of a sodium hydride dispersion 50% and 18 parts of methylbenzene was stirred for 3 hours at room temperature. A solution of 6.3 parts of cis-1-[2-[4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-1-piperidinyl]ethyl]-2,4,6-triphenylpyridinium tetrafluoroborate in 9 parts of methylbenzene was added and stirring was continued first for 4 hours at reflux temperature and then over weekend at room temperature. The whole was extracted five times with 100 parts of a hydrochloric acid solution 1N. The combined acid aqueous phases were treated with potassium hydroxide and extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.24 parts (33%) of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[2-(1H-1,2,4-triazol-5-ylthio)ethyl]-4-piperidinyl]benzamide monohydrate; mp. 161.8° C. (compound 48).

reactant | 1H-1,2,4-triazol-5-thiol | N1N=CN=C1S | C2H3N3S
reactant | sodium hydride | [H-].[Na+]
reactant | cis-1-[2-[4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-1-piperidinyl]ethyl]-2,4,6-triphenylpyridinium tetrafluoroborate | F[B-](F)(F)F.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CC[N+]2=C(C=C(C=C2C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)OC)C=C1Cl)OC
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[2-(1H-1,2,4-triazol-5-ylthio)ethyl]-4-piperidinyl]benzamide monohydrate | 33% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCSC2=NC=NN2)OC)C=C1Cl)OC | InChI=1S/C18H25ClN6O3S.H2O/c1-27-15-8-13(20)12(19)7-11(15)17(26)23-14-3-4-25(9-16(14)28-2)5-6-29-18-21-10-22-24-18;/h7-8,10,14,16H,3-6,9,20H2,1-2H3,(H,23,26)(H,21,22,24);1H2/t14-,16+;/m0./s1
